US04731381
Parenteral Solution of Sodium 1-[2,3-Dichloro-4-(2-methylenevaleryl)phenoxy]cyclobutane-1-carboxylate
200 mg of 1-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]cyclobutane-1-carboxylic acid is dissolved in 31 ml of 0.1N sodium bicarbonate and sufficient isotonic buffer to make a final volume of 100 ml. The water from all sources was pyrogen free. The solution is sterilized by filtration.

reactant | 1-[2,3-dichloro-4-(2-methylenevaleryl)phenoxy]cyclobutane-1-carboxylic acid | 200 mg | ClC1=C(OC2(CCC2)C(=O)O)C=CC(=C1Cl)C(C(CCC)=C)=O | C17H18Cl2O4
reactant | water | O | H2O
reactant | sodium bicarbonate | 0.1N, 31 ml | C([O-])(O)=O.[Na+]
product | Sodium 1-[2,3-Dichloro-4-(2-methylenevaleryl)phenoxy]cyclobutane-1-carboxylate | ClC1=C(OC2(CCC2)C(=O)[O-])C=CC(=C1Cl)C(C(CCC)=C)=O.[Na+] | InChI=1S/C17H18Cl2O4.Na/c1-3-5-10(2)15(20)11-6-7-12(14(19)13(11)18)23-17(16(21)22)8-4-9-17;/h6-7H,2-5,8-9H2,1H3,(H,21,22);/q;+1/p-1
